US08975415B2
To a stirred solution of di-tert-butyl [6′-(5-bromopyridin-3-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl]imidodicarbonate (48 mg, 0.075 mmol) in Et3N (0.67 ml) were added ethynylcyclopropane (0.063 mL, 0.75 mmol), PdCl2(PPh3)2 (10 mg, 0.015 mmol) and CuI (5.7 mg, 0.030 mmol) at room temperature and the mixture was sealed and irradiated with microwave at 150° C. for 1 hour. To this mixture was added activated carbon (ca. 100 mg) and the mixture was stirred for 1 hour to remove palladium residues. The mixture was passed through a pad of Celite. The filtrate was evaporated to give a residue. To the solution of the residue in toluene (3 ml) was added silica gel (500 mg) and the mixture was refluxed for 2 hours. The mixture was passed through a pad of Celite and the filtrate was evaporated to give a crude product, which was purified with column chromatography (MeOH in CHCl3=0 to 10%) to give 6′-[5-(cyclopropylethynyl)pyridin-3-yl]trispiro[cyclobutane-1,2′ chromene-4′,4″-[1,3]oxazole-3′,3′″-o xetan]-2″-amine (5 mg).

reactant | di-tert-butyl [6′-(5-bromopyridin-3-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl]imidodicarbonate | 0.075 mmol, 48 mg | BrC=1C=C(C=NC1)C=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C31H36BrN3O7
reactant | ethynylcyclopropane | 0.75 mmol, 0.063 mL | C(#C)C1CC1 | C5H6
solvent | Et3N | 0.67 ml | CCN(CC)CC | C6H15N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 0.015 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.030 mmol, 5.7 mg | [Cu]I
product | 6′-[5-(cyclopropylethynyl)pyridin-3-yl]trispiro[cyclobutane-1,2′ chromene-4′,4″-[1,3]oxazole-3′,3′″-o xetan]-2″-amine | 5 mg | C1(CC1)C#CC=1C=C(C=NC1)C=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N | C26H25N3O3
